US07608639B2
3-{4-[3-(4-Ethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 4-ethylphenol as in Example 18 to afford 0.020 g (14%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C24H24O4 377.1753, found 377.1747.

reactant | 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
reactant | 4-ethylphenol | C(C)C1=CC=C(C=C1)O | C8H10O
product | 3-{4-[3-(4-Ethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | C(C)C1=CC=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=CC2)C=C1 | C24H24O4
